US08247403B2
(4) tert-butyl 7-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A solution of 4-benzyl-7-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine (2.30 g, 7.22 mmol) and 1-chloroethyl chloroformate (1.24 ml, 11.5 mmol) in 1,2-dichloroethane (46 ml) was stirred at 90° C. for 1 hr, and the solvent was evaporated under reduced pressure. Methanol (46 ml) was added to the residue, and the mixture was stirred at 80° C. for 1 hr, and the solvent was evaporated under reduced pressure. The residue was washed with ether, 1N aqueous sodium hydroxide solution (16 ml), dioxane (16 ml) and di-tert-butyl dicarbonate (2.64 ml, 11.8 mmol) were added to the residue under ice-cooling, and the mixture was stirred under ice-cooling for 1 hr and at room temperature for 12 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the desired product (2.01 g, 84.8%) as a solid.

reactant | 4-benzyl-7-bromo-2,3,4,5-tetrahydro-1,4-benzoxazepine | 7.22 mmol, 2.30 g | C(C1=CC=CC=C1)N1CCOC2=C(C1)C=C(C=C2)Br | C16H16BrNO
reactant | 1-chloroethyl chloroformate | 11.5 mmol, 1.24 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | di-tert-butyl dicarbonate | 11.8 mmol, 2.64 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 46 ml | ClCCCl | C2H4Cl2
solvent | ether | CCOCC | C4H10O
solvent | sodium hydroxide | 1N, 16 ml | [OH-].[Na+]
solvent | dioxane | 16 ml | O1CCOCC1 | C4H8O2
product | tert-butyl 7-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 2.01 g, 84.8% | BrC=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C14H18BrNO3
